US07319103B2
8-{4-[3-(2-Methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-5H,7H-6-oxa-1,4,8a-triaza-s-indacene
Using the method described for the preparation of 10-{4-[3-(2-Methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[t]indene, the reaction of 8-[4-(3-Chloro-propoxy)-phenyl]-5H,7H-6-oxa-1,4,8a-triaza-s-indacene and 2-methyl-pyrrolidine provided compound.

reactant | 8-[4-(3-Chloro-propoxy)-phenyl]-5H,7H-6-oxa-1,4,8a-triaza-s-indacene | ClCCCOC1=CC=C(C=C1)C1=C2COCC2=NC2=CC=NN12 | C17H16ClN3O2
reactant | 2-methyl-pyrrolidine | CC1NCCC1 | C5H11N
product | 8-{4-[3-(2-Methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-5H,7H-6-oxa-1,4,8a-triaza-s-indacene | CC1N(CCC1)CCCOC1=CC=C(C=C1)C1=C2COCC2=NC2=CC=NN12 | C22H26N4O2
